US05607956
1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethene
1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethanol (900 mg) in dry chloroform was treated with 1M anhydrous hydrogen chloride in diethylether (1.1 equivalents). After 10 minutes at room temperature, aqueous sodium hydrogen carbonate was added and the mixture was extracted with dichloromethane. The material thus obtained was purified by flash chromatography to give the title compound as an almost colourless liquid.

reactant | 1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethanol | 900 mg | O1C=C(C=C1)C(C)(O)C1=C(N=CO1)C | C10H11NO3
reactant | hydrogen chloride | 1M | Cl | ClH
reactant | diethylether | 1.1 equivalents | C(C)OCC | C4H10O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethene | O1C=C(C=C1)C(=C)C1=C(N=CO1)C | C10H9NO2
